US06770259B2
To a teabag (5×5 cm polypropylene filters, 0.75 μm mesh) was added 0.30 g of Fmoc-Tyr(OtBu)-Wang Resin. The teabag was washed with the following (10 mL/bag): DMF 2×3 min, 20% piperidine in DMF 1×3 min, 20% piperidine in DMF 1×30 min, DCM 8×3 min, and DMF 3×3 min. About 2.5 equivalents of 6-[(4,6-Diphenyl-2-pyridinyl)oxy]-hexanoic acid, five equivalents of each of the following; HBTU, HOBT, diisopropylethylamine(DIEA) and DMF (10 mL/bag) were added. The bag was then shaken overnight for about 18 h. The bag was then washed with the following (10 mL/bag): DMF 3×3 min, DCM 8×3 min. The bag was dried under high vacuum. The contents of the bag was then placed in a small erlenmeyer flask. To the flask was added 10 mL of cleavage cocktail (95% trifluoroacetic acid, 2.5% triisopropylsilane, and 2.5% water). The resin was allowed to sit for 2 h while occasionally being swirled. After each swirl the sides of the flasks were rinsed with additional cocktail until the total volume of cocktail added was 15 mL. After 2 h, the resin was filtered and washed with TFA (2×4 mL). The filtrates were then concentrated to an oil under high vacuum. The oils were then purified by prep HPLC method 2 described above, to give 43.6 mg of N-[6-[(4,6-diphenyl-2-pyridinyl)oxy]-hexanoyl]tyrosine. ESMS: Calcd. For C32H32N2O5, 524.23; Found, 525.4 (M+H)+1

reactant | polypropylene | C(C(C)[*:2])[*:1]
reactant | Fmoc-Tyr(OtBu) | 0.30 g | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C28H29NO5
reactant | 6-[(4,6-Diphenyl-2-pyridinyl)oxy]-hexanoic acid | 2.5 equivalents | C1(=CC=CC=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCCCC(=O)O | C23H23NO3
reactant | HBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-[6-[(4,6-diphenyl-2-pyridinyl)oxy]-hexanoyl]tyrosine | 43.6 mg | C1(=CC=CC=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCCCC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C32H32N2O5
